US04451471
0.2 g of 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]acetaldehyde are dissolved in 50 ml of toluene. While stirring vigorously, 1 ml of ethylene glycol and then 0.2 g of p-toluenesulphonic acid are added. The mixture is heated for 40 hours in a water separator, cooled to 20°, filtered with suction, crystallised from hexane/benzene and dried under reduced pressure to constant weight. 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]acetaldehyde-ethyleneacetal is obtained in the form of a viscous oil.

reactant | 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]acetaldehyde | 0.2 g | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)SCC=O | C19H17NO3S2
reactant | ethylene glycol | 1 ml | C(CO)O | C2H6O2
reactant | p-toluenesulphonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]acetaldehyde-ethyleneacetal | C1COC(CSC=2SC(=C(N2)C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)O1 | C21H21NO4S2
